US05698560
4-(4-Morpholinobutoxy)benzylamine
According to a similar manner as that in Reference Example 78, 4-(4-morpholinobutoxy)benzonitrile obtained above was reduced by lithium aluminium hydride to give the title compound (88%). This compound was used in the subsequent reaction without further purification.

reactant | 4-(4-morpholinobutoxy)benzonitrile | O1CCN(CC1)CCCCOC1=CC=C(C#N)C=C1 | C15H20N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(4-Morpholinobutoxy)benzylamine | 88% | O1CCN(CC1)CCCCOC1=CC=C(CN)C=C1 | C15H24N2O2
